US04649212
8 g of N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-4-amino-n-butyric acid are dissolved in 50 ml of methanol and then 10 ml of concentrated sulfuric acid are slowly added. The reaction mixture is left to stand for some hours, then poured onto ice, made alkaline with sodium hydroxide solution and extracted with toluene. The toluene extract is washed with water until neutral and substantially concentrated in vacuo. The residue is crystallised from hexane, affording 6 g of methyl N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-4-amino-n-butyrate with a melting point of 60°-62° C.

reactant | N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-4-amino-n-butyric acid | 8 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)NCCCC(=O)O | C17H14ClF3N2O5
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
product | methyl N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]-4-amino-n-butyrate | 6 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)NCCCC(=O)OC | C18H16ClF3N2O5
